US09226916B2
[(3S,4R)-4-(4-Chloro-phenyl)-1-(5′-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester
A mixture of 26.7 mg (0.085 mmol)[(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester, 15 mg (0.068 mmol) 1-(5-methyl-2-pyridinyl)-4-piperidinecarboxylic acid (commercially available), 31 mg (0.082 mmol) HATU and 70 uL (0.409 mmol) DIPEA in 2 mL DMF was shaken for 1 h at room temperature. The mixture was subjected to purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and NEt3 to yield after evaporation of the product containing fractions the title compound as off-white solid. MS m/e: 551.4 [M]+.

reactant | [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | 0.085 mmol, 26.7 mg | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CNC[C@H]1C1=CC=C(C=C1)Cl)=O | C18H18ClFN2O2
reactant | 1-(5-methyl-2-pyridinyl)-4-piperidinecarboxylic acid | 0.068 mmol, 15 mg | CC=1C=CC(=NC1)N1CCC(CC1)C(=O)O | C12H16N2O2
reactant | HATU | 0.082 mmol, 31 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.409 mmol, 70 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | [(3S,4R)-4-(4-Chloro-phenyl)-1-(5′-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CCN(CC1)C1=NC=C(C=C1)C)=O | C30H32ClFN4O3
